US05952321
Step D: (4S)-3,3-diethyl-4-{(S)-4-[1-((2-methoxyethyl)methylamino)ethyl]phenoxy}-1-[(R)-α-n-propyl-(4-methyl)benzylaminocarbonyl]azeti-din-2-one
To a solution of (4S)-3,3-diethyl-4-{(S)-4-[1-(N-methoxyacetyl-methylamino)ethyl]phenoxy}-1-[(R)-α-n-propyl-(4-methyl)benzylaminocarbonyl]azetidin-2-one (13 gm, 24 mmol) in THF (150 mL) was added a 2M solution of borane-methyl sulfide in THF (36 mL, 72 nmmol) and the reaction stirred at rt for 7 hrs. The reaction was then quenched with methanol (20 mL) and then dimethylaminoethanol (17 mL) added to decompose the borate complex. After stirring at rt for 16 hrs most of the THF was evaporated in vacuo and the residue was taken up in ether, washed twice with potassium carbonate solution and brine. The aqueous layers were reextracted with another portion of ether and the pooled ether layers were then dried over sodium sulfate and evaporated. The residue was purified by preparative chromatography using 1.5-4% methanol/methylene chloride to afford 11 gm (86%) of the title compound as a viscous oil.

reactant | (4S)-3,3-diethyl-4-{(S)-4-[1-(N-methoxyacetyl-methylamino)ethyl]phenoxy}-1-[(R)-α-n-propyl-(4-methyl)benzylaminocarbonyl]azetidin-2-one | 24 mmol, 13 gm | C(C)C1(C(N([C@H]1OC1=CC=C(C=C1)[C@H](C)N(C(COC)=O)C)C(=O)N[C@@H](C1=CC=C(C=C1)C)CCC)=O)CC | C31H43N3O5
reactant | borane methyl sulfide | B.CSC
solvent | THF | 150 mL | C1CCOC1 | C4H8O
solvent | THF | 36 mL | C1CCOC1 | C4H8O
product | (4S)-3,3-diethyl-4-{(S)-4-[1-((2-methoxyethyl)methylamino)ethyl]phenoxy}-1-[(R)-α-n-propyl-(4-methyl)benzylaminocarbonyl]azeti-din-2-one | 11 gm, 86% | C(C)C1(C(N([C@H]1OC1=CC=C(C=C1)[C@H](C)N(C)CCOC)C(=O)N[C@@H](C1=CC=C(C=C1)C)CCC)=O)CC | C31H45N3O4
